US09422271B2
A mixture of 2,4-dichloro-5-((trimethylsilyl)ethynyl)pyrimidine (1.0 g, 4.1 mmol, 1.0 eq) and 5-cyclopropyl-1H-pyrazol-3-amine (756 mg, 6.2 mmol, 1.5 eq) in EtOH (4 ml) was stirred at room temperature for 2 h. The mixture was purified by silica gel column chromatography (PE/EtOAc=5:1 to 2:1) to afford 2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-((trimethylsilyl)ethynyl)pyrimidin-4-amine (900 mg, 66%).

reactant | 2,4-dichloro-5-((trimethylsilyl)ethynyl)pyrimidine | 4.1 mmol, 1.0 g, 1.0 eq | ClC1=NC=C(C(=N1)Cl)C#C[Si](C)(C)C | C9H10Cl2N2Si
reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 6.2 mmol, 756 mg, 1.5 eq | C1(CC1)C1=CC(=NN1)N | C6H9N3
solvent | EtOH | 4 ml | CCO | C2H6O
product | 2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-((trimethylsilyl)ethynyl)pyrimidin-4-amine | 900 mg, 66% | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)C#C[Si](C)(C)C | C15H18ClN5Si
